US08071592B2
(b) 7-(Methyloxy)-1-(2-propen-1-yl)quinolinium Iodide
7-(Methyloxy)quinoline (8.76 g; 55.09 mmol) and allyl iodide (19.72 ml; 110.18 mmol) were refluxed in toluene (120 ml) at 95° C. for 1 h, more allyl iodide (9.86 ml; 55.09 mmol) was added and the temperature of the reaction increased to 110° C. After a further 1 h the temperature of the reaction was increased to 120° C. and reaction continued for a further 0.5 h. The solvent was removed under vacuum and the resulting brown solid was washed with toluene and diethyl ether. The resultant solid were left to dry in a vacuum oven overnight to give the desired product (14.81 g; 82%)

reactant | 7-(Methyloxy)quinoline | 55.09 mmol, 8.76 g | COC1=CC=C2C=CC=NC2=C1 | C10H9NO
reactant | allyl iodide | 110.18 mmol, 19.72 ml | C(C=C)I | C3H5I
reactant | allyl iodide | 55.09 mmol, 9.86 ml | C(C=C)I | C3H5I
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(Methyloxy)-1-(2-propen-1-yl)quinolinium Iodide | 14.81 g, 82% | [I-].COC1=CC=C2C=CC=[N+](C2=C1)CC=C | InChI=1S/C13H14NO.HI/c1-3-8-14-9-4-5-11-6-7-12(15-2)10-13(11)14;/h3-7,9-10H,1,8H2,2H3;1H/q+1;/p-1
